US07135467B2
5-Hydroxy-1-methyl-6-oxo-2-[4-(2,2,2-trifluoroacetoxy)piperidin-1-yl]-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester
5-Benzyloxy-2-(4-hydroxypiperidin-1-yl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester (0.760 g, 1.96 mmol) was treated with trifluroacetic acid (20 mL) at ambient temperature. After 10 h, the reaction mixture was concentrated and purified on silica gel column using 2–5% MeOH/CH2Cl2 to afford desired product as a brown paste (0.650 g, 84%). 1H NMR (500 MHz, CDCl3) δ: 10.02 (br s, 1H), 5.23–5.19 (m, 1H), 4.44 (q, J=7.0 Hz, 2H), 3.57 (s, 3H), 3.36–3.31 (m, 2H), 3.15–3.10 (m, 2H), 2.17–2.11 (m, 2H), 2.02–1.95 (m, 2H), 1.42 (t, J=7.0 Hz, 3H). LRMS (M+H) calcd for C15H19F3N3O6: 394.32. found: 394.09

reactant | 5-Benzyloxy-2-(4-hydroxypiperidin-1-yl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester | 1.96 mmol, 0.760 g | C(C)OC(=O)C=1N=C(N(C(C1OCC1=CC=CC=C1)=O)C)N1CCC(CC1)O | C20H25N3O5
reactant | trifluroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Hydroxy-1-methyl-6-oxo-2-[4-(2,2,2-trifluoroacetoxy)piperidin-1-yl]-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)N1CCC(CC1)OC(C(F)(F)F)=O | C15H18F3N3O6
